US09340538B2
Step B: 5-(trifluoromethyl)thiazole-2-carboximidamide hydrochloride
5-(trifluoromethyl)thiazole-2-carbonitrile (1.25 g, 7 mmol) was reacted with sodium methoxide (0.38 g, 7 mmol) and ammonium chloride (0.76 g, 14 mmol) according to the procedure as described in Example 61, Step B to give the title compound as an offwhite solid (1.3 g, 80%). The compound was characterized by the following spectroscopic data:

reactant | 5-(trifluoromethyl)thiazole-2-carbonitrile | 7 mmol, 1.25 g | FC(C1=CN=C(S1)C#N)(F)F | C5HF3N2S
reactant | sodium methoxide | 7 mmol, 0.38 g | C[O-].[Na+]
reactant | ammonium chloride | 14 mmol, 0.76 g | [Cl-].[NH4+]
product | 5-(trifluoromethyl)thiazole-2-carboximidamide hydrochloride | Cl.FC(C1=CN=C(S1)C(N)=N)(F)F | InChI=1S/C5H4F3N3S.ClH/c6-5(7,8)2-1-11-4(12-2)3(9)10;/h1H,(H3,9,10);1H
